US09227960B2
A mixture of 4-morpholin-2-yl-phenol (0.99 g; 5.41 mmol) and di-tert-butyl dicarbonate (1.18 g; 5.41 mmol) in CH3CN (50 mL) was stirred at RT for 3 days. Subsequently, the resulting mixture was concentrated in vacuo and the residue was purified by column chromatography (SiO2, CH2Cl2:CH3OH 97:3) to afford 2-(4-hydroxy-phenyl)-morpholine-4-carboxylic acid tort-butyl ester (1.15 g).

reactant | 4-morpholin-2-yl-phenol | 5.41 mmol, 0.99 g | N1CC(OCC1)C1=CC=C(C=C1)O | C10H13NO2
reactant | di-tert-butyl dicarbonate | 5.41 mmol, 1.18 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | 2-(4-hydroxy-phenyl)-morpholine-4-carboxylic acid | OC1=CC=C(C=C1)C1CN(CCO1)C(=O)O | C11H13NO4
